US05250678
To a stirred solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.126 mmol, 1 eq) and Cu(OAc)2 (2.8 mg, 0.014 mmol. 0.11 eq) in CH2Cl2 (1 ml) in a 16 mL screw-cap vial equipped with a magnetic stir-bar was added triphenyl bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.030 mL, 0.504 mmol, 4 eq) to a suspension of triphenyl bismuth carbonate (127 mg, 0.253 mmol. 2 eq) in CH2Cl2 (1 ml)]. The reaction vessel was capped and the mixture stirred for five days. The reaction mixture was diluted with several milliliters of saturated aqueous NaHCO3 and extracted 4 times with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The product was isolated by preparative TLC on silica gel (eluted with 3:4 EtOAc/hexanes to afford 46 mg of 17-ethyl-1,14-dihydroxy 12-[2'-(4"-phenyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR, 13C NMR and mass spectral analysis were consistent with the desired structure.)

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | triphenyl bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetic acid | 0.504 mmol, 0.030 mL, 4 eq | C(C)(=O)O | C2H4O2
reactant | triphenyl bismuth carbonate | 0.253 mmol, 127 mg, 2 eq | C(O)(O)=O.C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | several milliliters | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.014 mmol, 2.8 mg, 0.11 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy 12-[2'-(4"-phenyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 46 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=CC=C2)OC)C)C)O)=O | C49H73NO12
